US07211119B2
1.1.2 2,4-Diamino-6-methylanisole dihydrochloride
105 g of 2,4-dinitro-6-methylanisole, 1.35 l of ethanol, 150 ml of water and 1 g of Pd/C (5% strength) were initially introduced into the autoclave and hydrogenated at 50° C. with a hydrogen pressure of 50 bar for 12 h. Subsequently, the mixture was cooled and then poured into 1.0 l of semiconcentrated HCl. The catalyst was filtered off, and the filtrate was evaporated to dryness on a rotary evaporator. The residue was extracted by boiling with 2×150 ml of ethanol, filtered off and dried overnight under reduced pressure.

reactant | 2,4-dinitro-6-methylanisole | 105 g | [N+](=O)([O-])C1=C(C(=CC(=C1)[N+](=O)[O-])C)OC | C8H8N2O5
reactant | ethanol | 1.35 l | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
reactant | HCl | 1.0 l | Cl | ClH
catalyst | Pd/C | 1 g | [Pd] | Pd
solvent | water | 150 ml | O | H2O
product | 2,4-Diamino-6-methylanisole dihydrochloride | Cl.Cl.NC1=C(C(=CC(=C1)N)C)OC | InChI=1S/C8H12N2O.2ClH/c1-5-3-6(9)4-7(10)8(5)11-2;;/h3-4H,9-10H2,1-2H3;2*1H
